US07459480B2
A solution of 1.00 g of 4-bromobenzyl bromide in 20 ml EtOH is stirred 5 h under reflux. The solvent is evaporated to obtain 766 mg of 1-bromo-4-ethoxymethyl-benzene as a yellow oil, MS (ESI) 216.1 (M+H)+.

reactant | 4-bromobenzyl bromide | 1.00 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | EtOH | 20 ml | CCO | C2H6O
product | 1-bromo-4-ethoxymethyl-benzene | 766 mg | BrC1=CC=C(C=C1)COCC | C9H11BrO
